US05696129
6-Amino-5-chloro-2-methoxypyridine-3-carboxylic Acid
A solution of methyl-6-amino-5-chloro-2-methoxypyridine-3-carboxylate (0.32 g) in MeOH (5 mL) was treated with 2.5N NaOH (0.6 mL) and H2O (5 mL) and the reaction stirred at room temperature until the reaction was complete by TLC. The MeOH was removed by rotary evaporation and the residue carefully acidified with 5N HCl to give the title compound which was collected and dried (0.15 g).

reactant | methyl-6-amino-5-chloro-2-methoxypyridine-3-carboxylate | 0.32 g | COC(=O)C=1C(=NC(=C(C1)Cl)N)OC | C8H9ClN2O3
reactant | NaOH | 2.5N, 0.6 mL | [OH-].[Na+]
reactant | H2O | 5 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 6-Amino-5-chloro-2-methoxypyridine-3-carboxylic Acid | NC1=C(C=C(C(=N1)OC)C(=O)O)Cl | C7H7ClN2O3
